US08748632B2
3-Methoxyphenethylamine (4.5 mL, 30 mmol), and cyclopentyl iodide (1.15 mL, 10 mmol) in CH3CN (15 mL) were irradiated for 10 min in a microwave at 110° C. After cooling to room temperature the mixture was diluted with CH2Cl2 and washed with NaHCO3 solution. The organic layer was dried over anhydrous Na2SO4 and evaporated in vacuo. The crude product was purified by silica gel chromatography using hexane as eluent and the product N-(3-methoxyphenethyl)cyclopentanamine (1.45 g, 66%) was obtained as a colorless liquid which solidified upon standing. 1H NMR (400 MHz, CDCl3): δ 8.48 (s, 1H), 7.20 (t, 1H, J=8.0 Hz), 6.79-6.73 (overlapping doublets and singlet, 3H), 3.74 (s, 3H), 3.44-3.39 (m, 1H), 3.38-3.11 (m, 4H), 1.84-1.83 (m, 2H), 1.82-1.81 (m, 4H), 1.66-1.56 (m, 2H). LC-MS (ESI) Calcd for: C14H21NO [M+H]+: 220.16. Found: 220.00.

reactant | 3-Methoxyphenethylamine | 30 mmol, 4.5 mL | COC=1C=C(CCN)C=CC1 | C9H13NO
reactant | cyclopentyl iodide | 10 mmol, 1.15 mL | C1(CCCC1)I | C5H9I
solvent | CH3CN | 15 mL | CC#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(3-methoxyphenethyl)cyclopentanamine | 1.45 g, 66% | COC=1C=C(CCNC2CCCC2)C=CC1 | C14H21NO
